US07576115B2
Synthesis of 4-({2-[[5-(4-t-butylphenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl](phenyl)methylene]hydrazino}carbonyl)-N-methylbenzenesulfonamide
[5-(4-t-Butylphenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl] (phenyl)methanone (0.254 mmol, 85 mg), 4-(hydrazinocarbonyl)-N-methylbenzenesulfonamide (0.254 mmol, 58 mg) and p-tosylic acid monohydrate (30 mol %, 13 mg) were dissolved in isopropyl alcohol (8.5 mL) and stirred at 100° C. for 19 hours. Then, the solvent was evaporated, and the residue was purified by silica gel thin layer chromatography (chloroform/methanol=10/1) to give the desired product as a yellow solid (30.3 mg, yield 22%).

reactant | [5-(4-t-Butylphenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl] (phenyl)methanone | 0.254 mmol, 85 mg | C(C)(C)(C)C1=CC=C(C=C1)C1=C(C(=NN1C)C(=O)C1=CC=CC=C1)O | C21H22N2O2
reactant | 4-(hydrazinocarbonyl)-N-methylbenzenesulfonamide | 0.254 mmol, 58 mg | N(N)C(=O)C1=CC=C(C=C1)S(=O)(=O)NC | C8H11N3O3S
solvent | isopropyl alcohol | 8.5 mL | C(C)(C)O | C3H8O
product | 4-({2-[[5-(4-t-butylphenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl](phenyl)methylene]hydrazino}carbonyl)-N-methylbenzenesulfonamide | 30.3 mg, yield 22% | C(C)(C)(C)C1=CC=C(C=C1)C1=C(C(=NN1C)C(=NNC(=O)C1=CC=C(C=C1)S(=O)(=O)NC)C1=CC=CC=C1)O | C29H31N5O4S
